US06353017B1
To a suspension of 3-methyl-L-phenylalanine (2.7 g, 15 mmol) in 85 mL 10% triehylamine/methanol is added di-t-butyldicarbonate (6.5 g, 30 mmol), and the solution is refluxed for 2.5 hours. After cooling, the methanol and triethylamine are evaporated and the residue is diluted with Et2O (250 mL) and extracted with saturated Na2CO3 (2×75 mL). The combined aqueous layers are again washed with Et2O (250 mL), and then acidified with conc. HCl to pH 2-3. The resulting mixture is then extracted with EtOAc (3×75 mL) and washed with water and brine, dried over MgSO4, and evaporated to yield 3-methyl-N-(t-butoxycarbonyl)-L-phenylalanine as a clear oil.

reactant | 3-methyl-L-phenylalanine | 15 mmol, 2.7 g | CC=1C=C(C[C@H](N)C(=O)O)C=CC1 | C10H13NO2
reactant | di-t-butyldicarbonate | 30 mmol, 6.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | triehylamine methanol | 85 mL | C(C)N(CC)CC.CO
product | 3-methyl-N-(t-butoxycarbonyl)-L-phenylalanine | CC=1C=C(C[C@H](NC(=O)OC(C)(C)C)C(=O)O)C=CC1 | C15H21NO4
